US06472386B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxybenzamido)-thiazol-4-yl]methyl]homopiperazine
4-Chloromethyl-2-(3,4,5-trimethoxybenzamido)-thiazole (140 mg) and homopiperazine (20 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxybenzamido)-thiazole | 140 mg | ClCC=1N=C(SC1)NC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C14H15ClN2O4S
reactant | homopiperazine | 20 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[2-(3,4,5-Trimethoxybenzamido)-thiazol-4-yl]methyl]homopiperazine | COC=1C=C(C(=O)NC=2SC=C(N2)CN2CCN(CCC2)CC=2N=C(SC2)NC(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C(C1OC)OC | C33H40N6O8S2
